US06780855B2
c) 11α-Acetoxy-7α-(9-chlorononyl)-estr-4-ene-3,17-dione
15.8 g of 11α-acetoxy-7α-(9-hydroxynonyl)-estr-4-ene-3,17-dione is reacted in 65 ml of acetonitrile with 184 ml of tetrachloromethane and 17.9 g of triphenylphosphine at room temperature. After 5 hours, it is diluted with methylene chloride, washed neutral with saturated sodium bicarbonate solution and water and dried. The crude product is chromatographed on silica gel with a hexane-ethyl acetate gradient. Yield: 7.8 g of 11α-acetoxy-7α-(9-chlorononyl)-estr-4-ene-3,17-dione with a melting point of 113-115° C.

reactant | 11α-acetoxy-7α-(9-hydroxynonyl)-estr-4-ene-3,17-dione | 15.8 g | C(C)(=O)O[C@H]1[C@@H]2[C@H]3CCC(C=C3C[C@H]([C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)CCCCCCCCCO)=O | C29H44O5
reactant | tetrachloromethane | 184 ml | ClC(Cl)(Cl)Cl | CCl4
reactant | triphenylphosphine | 17.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | 65 ml | C(C)#N | C2H3N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 11α-Acetoxy-7α-(9-chlorononyl)-estr-4-ene-3,17-dione | C(C)(=O)O[C@H]1[C@@H]2[C@H]3CCC(C=C3C[C@H]([C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)CCCCCCCCCCl)=O | C29H43ClO4
